US04061746
2-[(cis-2-Cyclohexylcyclopentyl)imino]hexahydroazepinehydrochloride
By the procedure of Example 23, only employing a reaction time of 29 days and substituting for cis-2-phenylcyclopentylamine hydrochloride an appropriate amount of cis-2-cyclohexylcyclopentylamine hydrochloride, the desired product is obtained, M.P. 179°-180° C.

reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | cis-2-cyclohexylcyclopentylamine hydrochloride | Cl.C1(CCCCC1)[C@@H]1[C@@H](CCC1)N
product | 2-[(cis-2-Cyclohexylcyclopentyl)imino]hexahydroazepinehydrochloride | Cl.C1(CCCCC1)[C@@H]1[C@@H](CCC1)N=C1NCCCCC1 | InChI=1S/C17H30N2.ClH/c1-3-8-14(9-4-1)15-10-7-11-16(15)19-17-12-5-2-6-13-18-17;/h14-16H,1-13H2,(H,18,19);1H/t15-,16-;/m1./s1
